US07579473B2
A mixture of 4-chloro-6,7-dimethoxy-quinazoline (548 mg, 2.4 mmol), 2-fluoro-4-nitro-phenylamine (392 mg, 2.5 mmol), AcCN (10 ml), and conc'd HCl (0.050 ml) was heated to reflux for several hrs. After the reaction mixture was allowed to cool to room temperature, the resulting solids were filtered, washed with AcCN and air-dried to give (6,7-dimethoxy-quinazolin-4-yl)-(2-fluoro-4-nitro-phenyl)-amine (673 mgs, 80%). 1H-NMR (400 MHz, DMSO): 12.18 (br s, 1H), 8.91 (s, 1H), 8.45 (s, 1H), 8.36 (dd, 1H), 8.24 (dd, 1H), 7.91 (dd, 1H), 7.44 (s, 1H), 4.04 (s, 3H), 4.02 (s, 3H). LC/MS Calcd for [M+H]+ 345.1, found 345.4.

reactant | 4-chloro-6,7-dimethoxy-quinazoline | 2.4 mmol, 548 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | 2-fluoro-4-nitro-phenylamine | 2.5 mmol, 392 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])N | C6H5FN2O2
reactant | HCl | 0.050 ml | Cl | ClH
solvent | AcCN | 10 ml | C(=O)(C)C#N | C3H3NO
product | (6,7-dimethoxy-quinazolin-4-yl)-(2-fluoro-4-nitro-phenyl)-amine | 673 mgs, 80% | COC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C=C(C=C1)[N+](=O)[O-])F | C16H13FN4O4
